US04536505
A solution of 6.1 g of ethanolamine and 2.94 g of 3-(4-carboxybutyl)-N-(3-pyridyl)indole are heated at 170° for 3 hours. Excess ethanolamine is removed by distillation under reduced pressure to yield 3-[4-(4,5-dihydrooxazol-2-yl)butyl]-N-(3-pyridyl)indole.

reactant | ethanolamine | 6.1 g | C(O)CN | C2H7NO
reactant | 3-(4-carboxybutyl)-N-(3-pyridyl)indole | 2.94 g | C(=O)(O)CCCCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C18H18N2O2
product | 3-[4-(4,5-dihydrooxazol-2-yl)butyl]-N-(3-pyridyl)indole | O1C(=NCC1)CCCCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C20H21N3O
